Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Latex / Lisinopril
 
Attending: ___.
 
Chief Complaint:
Left Femur Fracture
 
Major Surgical or Invasive Procedure:
Left distal femur ORIF

 
History of Present Illness:
___ yo female with history of PAF, HL, hypothyroidism, HTN and 
metastatic renal cell carcinoma s/p chemo/XRT, R nephrectomy 
___, adrenalextomy ___, T11-L1 lami/tumor resection/T9-L2 
fusion who presented with new L distal ___ femur fracture upon 
standing up and is now s/p ORIF on ___. Patient was noted to 
be in afib with RVR in the OR and was started on neo gtt. She 
remained in the PACU for >24 hr and subsequently spontaneously 
converted to NSR and was able to be weaned off the neo gtt. She 
was then transferred to the floor but after arriving on the 
floor the she went back in afib with RVR and had hypotension 
down to SBP ___. She was given Lopressor 5 mg x 1 without good 
effect and a cards consult was obtained. Cardiology recommended 
resuming home BB when able, pain control and digoxin if BP could 
tolerate. She was dig loaded but continued to be hemodynamically 
unstable and was transferred to SICU.  
.  
In the SICU, she was treated with metoprolol, her dig was 
discontinued and she converted to NSR. She has had issues with 
pain control and has been noted to be delirious at times but 
mostly AOx3.  
.  
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias.  

 
Past Medical History:
Metastatic Renal Cell Carcinoma (s/p surgery/XRT/chemo)  
Paroxysmal AF  
HTN  
Hypothyroidism  
Dyslipidemia  
Right nephretomy ___
Adrenalectomy ___
Left knee surgery ___ 
Tonsillectomy and Adenoidectomy
Polypectomies

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS: T= 98.1, BP=118/70, HR=95, RR=22, O2 sat=100% 3L NC  
GENERAL: Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP of *** cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
.  

 
Pertinent Results:
Imaging
.
___ Femur Film
IMPRESSION: Distal femur diaphyseal fracture. 
.
___ Chest Xray
IMPRESSION: Unchanged bilateral pulmonary metastases. No acute 
process 
identified. 
.
___ Left femoral reamings
1.  Fragments of bone and bone marrow with maturing trilineage 
hematopiesis, no evidence of malignancy; multiple levels are 
examined, see note.
2.  Fibroadipose tissue and skeletal muscle.
.
___ Intraop Films
28 spot fluoroscopic images were obtained intraoperatively 
without the 
presence of a radiologist. Flouro time recorded as 533.1 s on 
the 
electronic requisition. Views demonstrate steps related to 
fixation of a 
distal femoral shaft fracture. FCorrelaiton with real-time 
findings and,when appropriate, conventional radiographs is 
recommended for full assessment. 
.
___ CTA Chest
IMPRESSION: 
1. No evidence of pulmonary embolism. 
2. Interval progression of metastatic disease since ___ with 
increase in the size and number of metastatic foci. 
3. Interval development of pulmonary edema and small bilateral 
pleural 
effusion. 
.
___ Femur Right
The film is listed as two views of the femur. However, the study 
consists of a single view of the femur and a single view of the 
right lower extremity. The right hip and proximal femoral neck 
are not well evaluated on this scan. No acute fracture is 
detected on this limited exam. No suspicious lytic or sclerotic 
lesions are detected. 
Some non-aggressive periosteal new bone seen in the proximal 
tibial diaphysis medially likely relates to a muscle insertion 
site. However, if this corresponds to the site of symptoms, then 
conventional AP and lateral views of the right lower extremity 
or alternatively an MRI scan would be recommended for further 
assessment. There are degenerative changes of the right knee. 
.
___
Bilateral LENIs: There is nonocclusive thrombus of some age in 
one of the left posterior tibial veins. The other deep veins of 
the lower extremities show no ultrasound evidence of deep venous 
thrombosis. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with metastatic renal cell 
carcinoma. She underwent an ORIF on ___. Her post-operative 
course was complicated by atrial fibrillation with RVR and 
hypotension.  
.
# DVT: Patient was found on ___ to have left posterior tibial 
vein deep vein thrombosis. It was unclear how long the blood 
clot had been there (chronic or new). 
Patient was started on Lovenox (therapeutic dosing) and given 
her hemoptysis, closely monitored. Patient did not have any 
issues with increased bleeding on Lovenox. 
- Continue Lovenox ___ q12 daily 
.  
# Hemoptysis: On ___ and ___ Ms. ___ had an episode of 
hemoptysis. Each episode was approximately 1 teaspoon. Pulmonary 
was consulted who felt this was likely related to known 
pulmonary metastatic disease in the presence of lovenox for DVT 
prophylaxis. Patient did benefit from 2L nasal cannula at night, 
more for OSA. Ultimately, patient's lovenox had to be increased 
to therapeutic doses given her left lower extremity DVT. She did 
not have any hemoptysis for >48 hours, however, prior to 
discharge - with close supervision. 
- Continue 2L nasal cannula at night, room air during the day 
- Continue Lovenox at DVT treatment dosing 
.  
#. s/p left ORIF: She underwent a ORIF. She was started on 
enoxaparin post-operatively. She worked with physical therapy.
- Patient has follow-up appointment in Orthopedic Surgery Clinic 
on ___ at 10:40am (for Ortho Xrays on ___ ___ ___) and 
11am (w/ ___, NP)
- Please encourage patient to continue working with physical 
therapy. She should get extra pain medications as needed 
prior/during work with physical therapy. 
.
# Pain Control: The pain service was consulted to help manage 
Ms. ___ pain. She was started on nortriptyline and 
increased morphine. Nortriptyline was eventually stopped given 
some concerns for tremor and weakness in her upper extremities. 
Patient was started on gabapentin, MS ___ up to 
90mg TID) and lidocaine patches with control of her pain.
- Continue Morphine Sulfate ___ ___ every 4 hours for 
breakthrough pain 
- Continue MS ___ 90mg TID for ongoing pain (can decrease to 
90/60/90mg if overly sedated) 
- Continue gabapentin and lidocaine patches - the latter has 
been particularly helpful in controlling patient's pain
.  
#. Atrial fibrillation: Her post-operative course was 
complicated by atrial fibrillation with RVR and hypotension. She 
required care in the SICU. Cardiology was consulted. She was 
loaded with digoxin and converted into a regular rate. She 
maintained a regular rate throughout the rest of the 
hospitalization. She was placed on metoprolol TID.
- Continue current metoprolol TID dose
.  
#. Delirium: Post-op course complicated by delirium. This 
resolved outside of the ICU.
- Continue lorazepam PRN for anxiety and before bed to help with 
sleep
.  
#. Metastatic renal cell: Ms. ___ is s/p 
nephrectomy/adrenalectomy, spinal tumor resection/T9-L2 fusion, 
and left ORIF on ___. A family meeting was held on ___ which 
discussed her ___ plans. She will restart her Sutent 
after allowing a couple of weeks for her fracture to heal. 
Patient does also have a number of metastasis to her skin (left 
flank purplish nodules), confirmed by biopsy pathology reports.
.  
# Hypothyroidism: Continue home dose of levothyroxine.  
.  
# Skin Nodules: Per review of path reports, she has nodules on 
her back which were consistent with known metastatic disease.   
.  
# Oxygen Saturation: Desaturates slightly when sleeping. Likely 
due to obstructive sleep apnea. 
- Continue 2L nasal cannula when sleeping 
- Continue incentive spirometry, mobilization, and avoid 
increasing sedating meds.  
.    
CODE: Ms. ___ is full code.  

 
Medications on Admission:
Lopressor 25 qAM/50 qPM  
ASA 325 QD  
Gabapentin 800 mg TID  
Levothyroxine 200 mcg QD  
Lorazepam 2mg QHS  
MS ___ 60 mg Q12  
MS ___ ___ mg Q4  
Nystation cream  
Omeprazole 20 mg BID  
Prochlorperazine 10 mg Q8 prn nausea  
Extra strength tylenol Q6 prn pain  
Fish oil  
Ibuprofen 400 mg BID  
Methylsulfonylmethane 1 gram QD  
Miralax  
Pyridoxine 100 mg QD  

 
Discharge Medications:
1. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. Gabapentin 400 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).  
4. Levothyroxine 100 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. Pyridoxine 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
6. Polyethylene Glycol 3350 17 gram/dose Powder Sig: One (1) 
dose PO DAILY (Daily).  
7. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q8H (every 
8 hours) for 5 days.  
8. Lorazepam 1 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
9. Morphine 15 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain: Please use for increased pain with movement. 
Be sparing during the evenings. Hold for sedation, RR<12.  
10. Multivitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
11. Famotidine 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical BID 
(2 times a day) as needed for rash on bilateral thighs and 
groin.  
13. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
14. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
15. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for anxiety.  
16. Ondansetron HCl (PF) 4 mg/2 mL Solution Sig: One (1)  
Injection Q8H (every 8 hours) as needed for nausea/vomiting.  
17. MS ___ 30 mg Tablet Sustained Release Sig: Three (3) 
Tablet Sustained Release PO three times a day.  
18. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
Three (3) Adhesive Patch, Medicated Topical DAILY (Daily): 
Please keep ON 12 hours, OFF 12 hours. One for sacrum, one for 
hip, one for knee.  
19. ___ 200-25-400-40 mg/30 mL 
Mouthwash Sig: ___ mL Mucous membrane four times a day as 
needed for oral pain: Swish and spit.  
20. Lovenox 80 mg/0.8 mL Syringe Sig: One Hundred Sixty (160) mg 
Subcutaneous once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Metastatic Renal Cell Cancer
Left distal femur fracture.
Hemoptysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Thank you for allowing us to take part in your care. You were 
admitted to the hospital after a fracture of your left femur. 
You had a surgery to repair the fracture. Your post-operative 
course was complicated by an irregular rhythm which has now 
resolved. Your post-operative pain is also being controlled with 
a specific medication regimen. You were also found to have a 
blood clot in your left leg, so you were started on blood 
thinners. You were discharged to a rehab facility.
.
We made several changes to your medications. The important ones 
are as follows:
We STARTED Lovenox injections for the blood clot
We STARTED Morphine Intermediate Release as needed for 
breakthrough pain and MS ___ for ongoing pain
We STARTED Lidocaine patches for pain control
We STOPPED nortriptyline because of tremors/weakness.
We STOPPED ibuprofen.
We STOPPED fish oil.
We STOPPED methylsulfonylmethane.
We CHANGED acetaminophen.
We CHANGED your dosing of metoprolol to better control your 
irregular heart rate.
 
Followup Instructions:
___